US04638068
Preparation of α-Isopropyl-α-methyl-2,5-dioxo-3-pyrroline-1-acetamide
A solution of α-isopropyl-α-methyl-2,5-dioxo-3-pyrroline-1-acetonitrile (2.0 g, 0.104 mol) in methylene chloride (30 ml) is added in a fine stream to concentrated sulfuric acid at room temperature. After stirring overnight at room temperature for 16 hours the mixture is poured onto ice, containing sodium chloride and ethyl acetate. The organic layer is washed with aqueous sodium bicarbonate, brine and dried. Evaporation after washing with ether-pentane gives a solid (72%), mp 138.5°-140° C. Anal. calcd. for C10H14N2O3 : C, 57.13; H, 6.71; N, 13.33. Found: C, 56.89; H, 6.64; N, 13.16.

reactant | α-isopropyl-α-methyl-2,5-dioxo-3-pyrroline-1-acetonitrile | 0.104 mol, 2.0 g | C(C)(C)C(C#N)(N1C(C=CC1=O)=O)C | C10H12N2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium chloride | [Cl-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | α-Isopropyl-α-methyl-2,5-dioxo-3-pyrroline-1-acetamide | 72% | C(C)(C)C(C(=O)N)(N1C(C=CC1=O)=O)C | C10H14N2O3
